US04018794
By replacing in Example 6, step B, ethyl 4-benzoyl-3-hydroxy-5-nitrobenzoate and ethyl iodide by equimolar amounts of ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate and benzyl bromide respectively and following the procedure described, 3-benzyloxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid is obtained with a melting point of 222°-223° C.

reactant | ethyl 4-benzoyl-3-hydroxy-5-nitrobenzoate | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)OCC)C=C1[N+](=O)[O-])O | C16H13NO6
reactant | ethyl iodide | C(C)I | C2H5I
reactant | ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate | OC=1C=C(C(=O)OCC)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C17H15NO6
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyloxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C22H17NO6
